US07491710B2
A suspension of 360 mg of 5-benzyloxy-3-[5-(2-piperidin-1-ylethoxy)-1H-indol-2-yl]-1H-indazole, 916 mg of ammonium formate and 120 mg of palladium in 10 ml of ethanol is placed in a reactor that is irradiated in a microwave field (Synthwave 402) at a temperature of 90° C. for 30 minutes and the reaction mixture is then filtered through a bed of celite. The filtrate is evaporated under reduced pressure and the residue is then-taken up in a mixture of ethyl acetate (150 ml) and of water (50 ml). A 30% ammonium hydroxide solution is added so as to bring the pH to 10. After separation by settling out and extraction with ethyl acetate (1×50 ml), the organic extracts are combined, dried over magnesium sulfate and then evaporated under reduced pressure. 193 mg of 3-[5-(2-piperidin-1-ylethoxy)-1H-indol-2-yl]-1H-indazol-5-ol are isolated and characterized.

reactant | 5-benzyloxy-3-[5-(2-piperidin-1-ylethoxy)-1H-indol-2-yl]-1H-indazole | 360 mg | C(C1=CC=CC=C1)OC=1C=C2C(=NNC2=CC1)C=1NC2=CC=C(C=C2C1)OCCN1CCCCC1 | C29H30N4O2
reactant | ammonium formate | 916 mg | C(=O)[O-].[NH4+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium | 120 mg | [Pd] | Pd
product | 3-[5-(2-piperidin-1-ylethoxy)-1H-indol-2-yl]-1H-indazol-5-ol | 193 mg | N1(CCCCC1)CCOC=1C=C2C=C(NC2=CC1)C1=NNC2=CC=C(C=C12)O | C22H24N4O2
